US04329470
A mixture of 4.4 g (15 mmole) of ethyl 3-acetyl-5-(bromomethyl)-2,3-dihydro-2-oxo-1H-imidazole-4-carboxylate 2.5 g (16 mmole) of 4-phenylpiperidine, 2.1 g (15 mmole) of potassium carbonate and 75 ml of ethanol is stirred at 25° C. for 16 hours. Water (100 ml) is added and a precipitate forms. This is separated by filtration and washed with water. It is then suspended in 2-propanol and 1 equivalent of hydrogen chloride in 2-propanol is added. The resulting solid is separated by filtration and recrystallized from 2-propanol containing a little water to give ethyl 2,3-dihydro-5-[(4-phenyl-1-piperidinyl)methyl]-2-oxo-1H-imidazole-4-carboxylate hydrochloride melting at about 240°-241° C.

reactant | ethyl 3-acetyl-5-(bromomethyl)-2,3-dihydro-2-oxo-1H-imidazole-4-carboxylate | 15 mmole, 4.4 g | C(C)(=O)N1C(NC(=C1C(=O)OCC)CBr)=O | C9H11BrN2O4
reactant | 4-phenylpiperidine | C1(=CC=CC=C1)C1CCNCC1 | C11H15N
reactant | potassium carbonate | 15 mmole, 2.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrogen chloride | 1 equivalent | Cl | ClH
solvent | 2-propanol | CC(C)O | C3H8O
solvent | Water | 100 ml | O | H2O
solvent | ethanol | 75 ml | C(C)O | C2H6O
product | ethyl 2,3-dihydro-5-[(4-phenyl-1-piperidinyl)methyl]-2-oxo-1H-imidazole-4-carboxylate hydrochloride | Cl.C1(=CC=CC=C1)C1CCN(CC1)CC1=C(NC(N1)=O)C(=O)OCC | InChI=1S/C18H23N3O3.ClH/c1-2-24-17(22)16-15(19-18(23)20-16)12-21-10-8-14(9-11-21)13-6-4-3-5-7-13;/h3-7,14H,2,8-12H2,1H3,(H2,19,20,23);1H
